US08426448B2
Add THF (240 mL) to anhydrous cerium (III) chloride (35 g, 144 mmol) and stir the slurry under nitrogen for 30 minutes. Cool the mixture to −76° C. in a dry-ice acetone bath. Add a 1.6 M solution of methyl lithium in Et2O (90 mL, 144 mmol) dropwise maintaining the internal reaction temperature below −60° C. Stir for 30 minutes after the addition is complete, cool the reaction to −76° C., then add 2-cyanopyridine (5 g, 48 mmol) as a solution in THF (20 mL) controlling the addition to keep the reaction below −60° C. Stir the mixture in the dry-ice bath for 15 minutes, then remove the bath and allow the reaction to warm to 15° C. Cool the reaction in the dry-ice bath then add ammonium hydroxide (90 mL) with stirring. Allow the reaction to warm to room temperature with stirring overnight. Decant the solution from the mixture and wash the solids well with THF. Combine the filtrate and washes, then evaporate to give 1-methyl-1-pyridin-2-yl-ethylamine in quantitative mass balance. 1H NMR (400 MHz, CDCl3): δ 8.52 (d, J=4.0 Hz, 1H), 7.60 (td, J=7.7, 1.6 Hz, 1H), 7.42 (d, J=7.9 Hz, 1H), 7.15-7.08 (m, 1H), 1.47 (s, 6H).

reactant | cerium (III) chloride | 144 mmol, 35 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | methyl lithium | C[Li]
reactant | Et2O | 144 mmol, 90 mL | CCOCC | C4H10O
reactant | 2-cyanopyridine | 48 mmol, 5 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | dry-ice | C(=O)=O | CO2
reactant | ammonium hydroxide | 90 mL | [OH-].[NH4+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 240 mL | C1CCOC1 | C4H8O
product | 1-methyl-1-pyridin-2-yl-ethylamine | CC(C)(C1=NC=CC=C1)N | C8H12N2
